US06573377B1
(1) Methyl 1-[4-chloro-6-(4-methoxybenzyl)amino-2-pyrimidinyl]-5-ethyl-4-pyrazolecarboxylate
A 2.8 g portion of 4-chloro-2-hydrazino-6-(4-methoxybenzyl)aminopyrimidine was added to an ethanol solution (20 ml) of 1.72 g of methyl 2-(methoxymethylene)propionylacetate (methyl 2-methoxymethylene-3-oxopentanoate) at room temperature and stirred for 30 minutes, and then the mixture was heated under reflux for 3 hours. After concentration of the reaction solution under a reduced pressure, ether and hexane were added to the residue and the precipitate was collected by filtration to obtain 2.53 g of the title compound as a white solid.

reactant | 4-chloro-2-hydrazino-6-(4-methoxybenzyl)aminopyrimidine | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)OC)NN | C12H14ClN5O
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | methyl 2-(methoxymethylene)propionylacetate (methyl 2-methoxymethylene-3-oxopentanoate) | 1.72 g | CC(C(C(C(=O)O)=COC)=O)C.COC=C(C(=O)CC(=O)OC)C | 2C8H12O4
reactant | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | Methyl 1-[4-chloro-6-(4-methoxybenzyl)amino-2-pyrimidinyl]-5-ethyl-4-pyrazolecarboxylate | 2.53 g | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)OC)N1N=CC(=C1CC)C(=O)OC | C19H20ClN5O3
